US04731367
Under argon, 183 mg (0.39 mmol) of 3-[1-(tertbutyldimethylsilyl)-9,10-didehydro-2,6-dimethyl-8α-ergolinyl]-1,1-diethylurea is dissolved in 5 ml of methanol with addition of 2 ml of tetrahydrofuran and stirred with 1 ml of 14N potassium hydroxide solution at room temperature for 17 hours. To work up the mixture, it is diluted with saturated sodium chloride solution and extracted with methylene chloride. The methylene chloride extracts are washed with saturated sodium chloride solution and water and dried over sodium sulfate. The crude product of 128 mg is chromatographed and crystallized as the tartrate, thus obtaining 94 mg (67% of theory) of 3-(9,10-didehydro-2,6-dimethyl-8α-ergolinyl)-1,1-diethylurea.

reactant | 3-[1-(tertbutyldimethylsilyl)-9,10-didehydro-2,6-dimethyl-8α-ergolinyl]-1,1-diethylurea | 0.39 mmol, 183 mg | C(C)(C)(C)[Si](N1C(=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C1C32)NC(N(CC)CC)=O)C)C)(C)C | C27H42N4OSi
solvent | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | sodium chloride | [Cl-].[Na+]
product | 3-(9,10-didehydro-2,6-dimethyl-8α-ergolinyl)-1,1-diethylurea | 94 mg, 67% | CC1=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C(N1)C32)NC(N(CC)CC)=O)C | C21H28N4O
